US08609710B2
Tert-Butyl 5-[(tert-butoxycarbonyl)amino]-2-(diethoxyphosphoryl)valerate
tert-Butyl diethylphosphonoacetate (20.0 g) was dissolved in tetrahydrofuran (500 mL). To the solution, sodium hydride (63%, 3.32 g) was added at 0° C., and the mixture was stirred at 0° C. for 15 minutes and at room temperature for 1 hour. A solution of tert-butyl (3-bromopropyl)carbamate (20.0 g) in tetrahydrofuran (20 mL) was slowly added thereto at room temperature, and the mixture was stirred at room temperature for 18 hours. To the reaction solution, saturated aqueous ammonium chloride was added, and organic matter was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, then dried over anhydrous sodium sulfate, and filtered, and the solvent was distilled off under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography (eluting solvent: hexane/ethyl acetate=1/1-ethyl acetate) to obtain the title compound (26.6 g).

reactant | tert-Butyl diethylphosphonoacetate | 20.0 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | sodium hydride | 3.32 g | [H-].[Na+]
reactant | tert-butyl (3-bromopropyl)carbamate | 20.0 g | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Tert-Butyl 5-[(tert-butoxycarbonyl)amino]-2-(diethoxyphosphoryl)valerate | 26.6 g | C(C)(C)(C)OC(=O)NCCCC(C(=O)OC(C)(C)C)P(=O)(OCC)OCC | C18H36NO7P
